US07579140B2
5.3 Preparation of 1-(3,5-dinitrobenzyl)-5-methoxy-2,3,3-trimethyl-3H-indolium iodide
To 5-methoxy-2,3,3-trimethyl-3H-indole (1.90 g) was added 3,5-dinitrobenzyl iodide (4.62 g) and 1,2-dichlorobenzene (10 ml). The mixture was heated at 75° C. for 3 hours, during which time an orange solid separated. The mixture was then cooled in an ice bath and the solid fraction collected by filtration; it was washed sequentially with dichlorobenzene and diethyl ether and dried under vacuum to give the product (2.62 g).

reactant | 5-methoxy-2,3,3-trimethyl-3H-indole | 1.90 g | COC=1C=C2C(C(=NC2=CC1)C)(C)C | C12H15NO
reactant | 3,5-dinitrobenzyl iodide | 4.62 g | [N+](=O)([O-])C=1C=C(CI)C=C(C1)[N+](=O)[O-] | C7H5IN2O4
solvent | 1,2-dichlorobenzene | 10 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 1-(3,5-dinitrobenzyl)-5-methoxy-2,3,3-trimethyl-3H-indolium iodide | 2.62 g | [I-].[N+](=O)([O-])C=1C=C(C[N+]2=C(C(C3=CC(=CC=C23)OC)(C)C)C)C=C(C1)[N+](=O)[O-] | InChI=1S/C19H20N3O5.HI/c1-12-19(2,3)17-10-16(27-4)5-6-18(17)20(12)11-13-7-14(21(23)24)9-15(8-13)22(25)26;/h5-10H,11H2,1-4H3;1H/q+1;/p-1
